US05942644
Colletotrichum gloeosporioides is cultured according to the method of Buisson and Azerad (Tet. Lett. 27, 2631-2634 (1986), herein incorporated by reference) in one liter of a medium of glucose (30 grams), KH2PO4 (1 gram), K2HPO4 (2 grams), corn steep liquor (10 grams) MgSO4.7H2O (0.5 gram), NaNO3 (2 grams), FeSO4.7H2O (0.02 gram), and KCl (0.5 gram) with rotary shaking at 25° C. Two grams of 2-carboxy-1-tetralone hydrazide, produced by the reaction of 2-carboethoxy-1-tetralone with hydrazine, is dissolved in 2 ml of 95% ethanol, the resulting solution is added to the culture, and shaking is resumed. The reaction is followed by TLC (staining with anisaldehyde) to monitor the consumption of starting material and the production of product alcohol. After 48-72 hours the reaction is judged complete, and the reaction is terminated by removing from the shaker and adding 20-30 grams of Celite. The resulting suspension is suction filtered through a pad of Celite and the clear yellow filtrate is extracted with ethyl acetate (4×200 ml). The extracts are combined, dried over MgSO4, filtered, and rotary evaporated to leave 1 gram of a yellowish solid containing (1S,2S)-1-hydroxy-2-carboxytetralin hydrazide.

reactant | glucose | 30 grams | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | KH2PO4 | 1 gram | OP(=O)(O)[O-].[K+]
reactant | K2HPO4 | 2 grams | OP(=O)([O-])[O-].[K+].[K+]
reactant | KCl | 0.5 gram | [Cl-].[K+]
reactant | 2-carboethoxy-1-tetralone | C(=O)(OCC)C1C(C2=CC=CC=C2CC1)=O | C13H14O3
reactant | hydrazine | NN | H4N2
product | 2-carboxy-1-tetralone hydrazide | Two grams | C(=O)(O)C1(C(C2=CC=CC=C2CC1)=O)C(=O)NN | C12H12N2O4
